US05523280
7 g (0.0540 mol) of hydrazine hydrate are added, slowly and at room temperature, to a solution of 10.5 g (0.050 mol) of 1-(2-chlorophenyl)-3-dimethylamino-2-propen-1-one, prepared in Example 1, in 60 ml of ethanol. The reaction mixture is stirred for 5 hours at room temperature then left standing for 12 hours before being concentrated to dryness. The residue is recrystallised from a heptane/ethyl acetate mixture. 6.9 g (0.0386 mol) of 3-(2'-chlorophenyl)-1H-pyrazole are obtained, which melts at 93° C. (yield 77%) (compound 60).

reactant | hydrazine hydrate | 0.0540 mol, 7 g | O.NN
reactant | 1-(2-chlorophenyl)-3-dimethylamino-2-propen-1-one | 0.050 mol, 10.5 g | ClC1=C(C=CC=C1)C(C=CN(C)C)=O | C11H12ClNO
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-(2'-chlorophenyl)-1H-pyrazole | 0.0386 mol, 6.9 g, yield 77% | ClC1=C(C=CC=C1)C1=NNC=C1 | C9H7ClN2
